US07465731B2
To a stirred solution of 1-(bromomethyl)-2-nitrobenzene (2.10 g) in DMF (20 mL) was added pyrrolidine (0.95 mL) and N,N-diisopropylethylamine (2.54 mL), and the mixture was stirred at 60° C. for 24 hours. The resulting mixture was poured into ethyl acetate and brine. The organic phase was separated and washed with brine, dried over sodium sulfate. The solvent was evaporated in vacuo and the residue was purified by silica gel column chromatography to give 1-(2-nitrobenzyl)pyrrolidine (1.92 g) as a pale yellow oil.

reactant | 1-(bromomethyl)-2-nitrobenzene | 2.10 g | BrCC1=C(C=CC=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | pyrrolidine | 0.95 mL | N1CCCC1 | C4H9N
reactant | N,N-diisopropylethylamine | 2.54 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 1-(2-nitrobenzyl)pyrrolidine | 1.92 g | [N+](=O)([O-])C1=C(CN2CCCC2)C=CC=C1 | C11H14N2O2
